US04933355
Isopropyl 5-{1-ethoxycarbonyl-1-[2-(3-phenylureido)thiazol-4-yl]methylene}rhodanine-3-acetate sesquihydrate
Following a procedure similar to that described in Example 27, the desired compound was prepared from 1 g of 5-{1-ethoxycarbonyl-1-[2-(3-phenylureido)thiazol-4-yl]methylene}rhodanine-3-acetic acid, 0.5 g of isopropyl bromide, 0.25 g of triethylamine and 10 ml of hexamethylphosphoric triamide. The resulting yellow crystalline product had the following physical properties.

reactant | 5-{1-ethoxycarbonyl-1-[2-(3-phenylureido)thiazol-4-yl]methylene}rhodanine-3-acetic acid | 1 g | C(C)OC(=O)C(C=1N=C(SC1)NC(=O)NC1=CC=CC=C1)=C1C(N(C(S1)=S)CC(=O)O)=O | C19H16N4O6S3
reactant | isopropyl bromide | 0.5 g | C(C)(C)Br | C3H7Br
reactant | triethylamine | 0.25 g | C(C)N(CC)CC | C6H15N
solvent | hexamethylphosphoric triamide | 10 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | Isopropyl 5-{1-ethoxycarbonyl-1-[2-(3-phenylureido)thiazol-4-yl]methylene}rhodanine-3-acetate sesquihydrate | O.C(C)OC(=O)C(C=1N=C(SC1)NC(=O)NC1=CC=CC=C1)=C1C(N(C(S1)=S)CC(=O)OC(C)C)=O.O.O.C(C)(C)OC(CN1C(SC(C1=O)=C(C(=O)OCC)C=1N=C(SC1)NC(=O)NC1=CC=CC=C1)=S)=O | InChI=1S/2C22H22N4O6S3.3H2O/c2*1-4-31-19(29)16(17-18(28)26(22(33)35-17)10-15(27)32-12(2)3)14-11-34-21(24-14)25-20(30)23-13-8-6-5-7-9-13;;;/h2*5-9,11-12H,4,10H2,1-3H3,(H2,23,24,25,30);3*1H2
